US06979696B2
A mixture of (6-Bromo-5-fluoro-1H-indol-3-ylmethyl)-dimethyl-amine (1.0 g) and sodium cyanide (0.54 g, 11.02 mmol) in ethyl acetate (1.8 ml) and methylsulfoxide (16 ml) was heated at 80° C. for 24 hrs then partitioned between ethyl acetate and water. The organic extract was washed with brine, dried (anhydrous sodium sulfate), concentrated under reduced pressure. The residue was purified by flash column chromatography over silica gel eluting with 20% ethyl acetate in hexane to give (6-Bromo-5-fluoro-1H-indol-3-yl)-acetonitrile as a yellow solid (0.41 g, 44%). 1H NMR (CDCl3) d: 3.78 (d, 2H, J=1.0 Hz), 7.27 (dd, 1H, J=1.2 Hz), 7.31 (d, 1H, J=8.8 Hz, 7.58 (d, 1H, J=5.5 Hz), 8.23 (bs, 1H).

reactant | (6-Bromo-5-fluoro-1H-indol-3-ylmethyl)-dimethyl-amine | 1.0 g | BrC1=C(C=C2C(=CNC2=C1)CN(C)C)F | C11H12BrFN2
reactant | sodium cyanide | 11.02 mmol, 0.54 g | [C-]#N.[Na+]
solvent | ethyl acetate | 1.8 ml | C(C)(=O)OCC | C4H8O2
solvent | methylsulfoxide | 16 ml | CS(=O)C | C2H6OS
product | (6-Bromo-5-fluoro-1H-indol-3-yl)-acetonitrile | 0.41 g, 44% | BrC1=C(C=C2C(=CNC2=C1)CC#N)F | C10H6BrFN2
